US06355803B1
Synthesis of 4-methoxybenzyltriphenyl phosphonium chloride
A solution of 4-methoxybenzyl chloride (1.153 g, 0.0074 mol) in anhydrous toluene (10 mL) was treated with triphenylphosphine (1.93 g, 1 equivalent). The resulting solution was refluxed under nitrogen. After 8-10 hours, the reaction was cooled to room temperature and diluted with ether. The phosphonium salt was collected by filtration. Yield=1.5 g (53%); MALDI-TOF MS 383.9 obs. (383.45 calc.).

reactant | 4-methoxybenzyl chloride | 0.0074 mol, 1.153 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | triphenylphosphine | 1.93 g, 1 equivalent | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 4-methoxybenzyltriphenyl phosphonium chloride | [Cl-].COC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C26H24OP.ClH/c1-27-23-19-17-22(18-20-23)21-28(24-11-5-2-6-12-24,25-13-7-3-8-14-25)26-15-9-4-10-16-26;/h2-20H,21H2,1H3;1H/q+1;/p-1
